US07659279B2
2-{(2S)-2-[({4-[3-Chloro-4-fluoroanilino]-7-methoxyquinazolin-5-yl}oxy)methyl]pyrrolidin-1-yl}-2-oxoethanol
Glycolic acid (20 mg) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU, 109 mg) were added sequentially, each in one portion, to a stirred solution of N-(3-chloro-4-fluorophenyl)-7-methoxy-5-[(2S)-pyrrolidin-2-ylmethoxy]-quinazolin-4-amine (96 mg) and N,N-diisopropylethylamine (83 μl) in DCM (3 ml) at room temperature under a nitrogen atmosphere. The reaction mixture was stirred for 16 hours 30 minutes and then diluted with DCM (10 ml) and washed with saturated aqueous sodium hydrogen carbonate and water. The organic layer was dried (MgSO4) and concentrated in vacuo to leave a yellow oil, which was purified by column chromatography using 0-10% methanol in dichloromethane as eluent to give the title compound as a white solid (55 mg, 50%); NMR Spectrum (DMSO-d6) 9.90 (s, 1H), 8.42 (s, 1H), 8.15 (dd, 1H), 7.70-7.60 (m, 1H), 7.40 (t, 1H), 6.88 (d, 1H), 6.78 (d, 1H), 4.65-4.53 (m, 2H), 4.40 (dd, 1H), 4.17 (dd, 1H), 4.03 (d, 1H), 3.90 (s, 3H), 3.45-3.35 (m, 3H), 2.10-1.82 (m, 4H); Mass spectrum MH+ 461.

reactant | Glycolic acid | 20 mg | C(CO)(=O)O | C2H4O3
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 109 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-(3-chloro-4-fluorophenyl)-7-methoxy-5-[(2S)-pyrrolidin-2-ylmethoxy]-quinazolin-4-amine | 96 mg | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=CC(=C12)OC[C@H]1NCCC1)OC | C20H20ClFN4O2
reactant | N,N-diisopropylethylamine | 83 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-{(2S)-2-[({4-[3-Chloro-4-fluoroanilino]-7-methoxyquinazolin-5-yl}oxy)methyl]pyrrolidin-1-yl}-2-oxoethanol | 55 mg, 50% | ClC=1C=C(NC2=NC=NC3=CC(=CC(=C23)OC[C@H]2N(CCC2)C(CO)=O)OC)C=CC1F | C22H22ClFN4O4
